US09034900B2
Step 3: 5-[2-(cyclopropylmethoxy)-5-ethylsulfonylphenyl]-3-hydroxy-1-methylpyridin-2-one
To a mixture of 5-bromo-3-hydroxy-1-methylpyridin-2-one (1.00 g, 4.9 mmol), 2-[2-(cyclopropylmethoxy)-5-ethylsulfonylphenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1.80 g, 4.9 mmol) in dioxane (30 mL) and H2O (5 mL) was added K3PO4 (3.12 g, 14.7 mmol), Pd(dppf)Cl2 (358 mg, 0.49 mmol). After purging the mixture with nitrogen, the mixture was stirred at 90° C. under microwave irradiation for 1 h. After the mixture was filtered, the filtrate was concentrated to dryness. The resulting residue was purified by prep-HPLC to give the title compound (0.9 g, 51%) as a purple solid. 1H NMR (CDCl3, 400 MHz) δ 7.81 (dd, J1=8.8 Hz, J2=2.4 Hz, 1H), 7.77 (d, J=2.4 Hz, 1H), 7.16-7.15 (m, 2H), 3.95 (d, J=6.8 Hz, 2H), 3.70 (s, 3H), 3.12 (q, J=7.6 Hz, 2H), 1.32-1.27 (m, 4H), 0.70-0.67 (m, 2H), 0.39-0.36 (m, 2H). LCMS (M+H)+=364.

reactant | 5-bromo-3-hydroxy-1-methylpyridin-2-one | 4.9 mmol, 1.00 g | BrC=1C=C(C(N(C1)C)=O)O | C6H6BrNO2
reactant | 2-[2-(cyclopropylmethoxy)-5-ethylsulfonylphenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 4.9 mmol, 1.80 g | C1(CC1)COC1=C(C=C(C=C1)S(=O)(=O)CC)B1OC(C(O1)(C)C)(C)C | C18H27BO5S
reactant | K3PO4 | 14.7 mmol, 3.12 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 5 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.49 mmol, 358 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-[2-(cyclopropylmethoxy)-5-ethylsulfonylphenyl]-3-hydroxy-1-methylpyridin-2-one | 0.9 g, 51% | C1(CC1)COC1=C(C=C(C=C1)S(=O)(=O)CC)C=1C=C(C(N(C1)C)=O)O | C18H21NO5S
